US08309546B2
5-(8-{4-[(Dimethylamino)acetyl]piperazin-1-yl}-9-isobutyl-6-morpholin-4-yl-9H-purin-2-yl)pyrimidin-2-amine
1-Hydroxybenzotriazole monohydrate (48.9 mg, 0.32 mmol), 1-(dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (91.8 mg, 0.48 mmol), and triethylamine (164.6 μl, 1.18 mmol) were added to an N,N-dimethylformamide suspension (2.0 ml) of 5-[9-(isobutyl)-6-morpholin-4-yl-8-piperazin-1-yl-9H-purin-2-yl]pyrimidin-2-amine (140.0 mg, 0.32 mmol) and N,N-dimethylglycine hydrochloride (53.5 mg, 0.38 mmol) at room temperature. The resulting mixture was stirred for 21 hour and then the reaction mixture was poured into dichloromethane-methanol (10:1), washed with saturated aqueous sodium hydrogen carbonate solution, and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure and the resulting residue was purified by preparative thin layer silica gel chromatography (dichloromethane:methanol=5:1) to give the title compound (103.9 mg, 62%) as a pale yellow solid.

reactant | 1-Hydroxybenzotriazole monohydrate | 0.32 mmol, 48.9 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.48 mmol, 91.8 mg | Cl.CN(C)CCCN=C=NCC
reactant | triethylamine | 1.18 mmol, 164.6 μl | C(C)N(CC)CC | C6H15N
reactant | 5-[9-(isobutyl)-6-morpholin-4-yl-8-piperazin-1-yl-9H-purin-2-yl]pyrimidin-2-amine | 0.32 mmol, 140.0 mg | C(C(C)C)N1C2=NC(=NC(=C2N=C1N1CCNCC1)N1CCOCC1)C=1C=NC(=NC1)N | C21H30N10O
reactant | N,N-dimethylglycine hydrochloride | 0.38 mmol, 53.5 mg | Cl.CN(CC(=O)O)C
solvent | dichloromethane methanol | ClCCl.CO
solvent | N,N-dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
product | 5-(8-{4-[(Dimethylamino)acetyl]piperazin-1-yl}-9-isobutyl-6-morpholin-4-yl-9H-purin-2-yl)pyrimidin-2-amine | 103.9 mg, 62% | CN(C)CC(=O)N1CCN(CC1)C=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC(C)C | C25H37N11O2
